US04272507
3.16 g (10 mmoles) of 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid and 2 g of sodium boranate are warmed to 80° in 10 ml of dimethylformamide for 4 hours. The mixture is poured onto water and extracted with toluene, the aqueous phase is acidified and extracted with ethyl acetate, and the organic phase is dried and concentrated. Recrystallization of the residue from toluene yields 3-(2,6-dichloroanilino)-2-thiophenacetic acid (m. 164° to 168°).

reactant | 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid | 10 mmoles, 3.16 g | ClC1=C(NC2=C(SC=C2)C(C(=O)O)=O)C(=CC=C1)Cl | C12H7Cl2NO3S
reactant | sodium boranate | 2 g | B(=O)[O-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-dichloroanilino)-2-thiophenacetic acid | ClC1=C(NC2=C(SC=C2)CC(=O)O)C(=CC=C1)Cl | C12H9Cl2NO2S
